US04820834
3-(RS)-[N-(2-indolecarbonyl)-N-methylamino]-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one
1,3-Dihydro-3-(RS)-methylamino-5-phenyl-2H-1,4-benzodiazepin-2-one (130 mg, 0.49 mmol) and indole-2-carbonyl chloride (88 mg, 0.49 mmol) were combined in CH2Cl2 (5 ml) and stirred 2 hours at 25° C. The reaction was concentrated and chromatographed on silica gel (3% MeOH in CH2Cl2) to give the title compound as a white solid from CH2Cl2 : (m.p. 287°-288.5°).

reactant | 1,3-Dihydro-3-(RS)-methylamino-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.49 mmol, 130 mg | CNC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C16H15N3O
reactant | indole-2-carbonyl chloride | 0.49 mmol, 88 mg | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-(RS)-[N-(2-indolecarbonyl)-N-methylamino]-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | N1C(=CC2=CC=CC=C12)C(=O)N(C)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C25H20N4O2
